US03954754
EXAMPLE 6: 6-tert.Butyl-3-hydrazino-5,6,7,8-tetrahydrocinnoline
A suspension of 13.8 g of 6-tert.butyl-3-chloro-5,6,7,8-tetrahydrocinnoline in 100 cc of hydrazine hydrate is stirred in an oil bath of 100° for 23 hours, whereby 20 cc of tetrahydrofuran are added after 1 hour. The mixture is worked up as described in Example 4, and the resulting crude oily title compound is dissolved in 40 cc of absolute ethanol, and hydrochloric acid in ethanol is added to the solution until an acid reaction is obtained. The hydrochloride which crystallizes is triturated with 100 cc of concentrated ammonia, the insoluble title compound is filtered off and has a M.P. of 72°-73° (decomp.).

reactant | 6-tert.butyl-3-chloro-5,6,7,8-tetrahydrocinnoline | 13.8 g | C(C)(C)(C)C1CC=2C=C(N=NC2CC1)Cl | C12H17ClN2
reactant | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
reactant | hydrazine hydrate | 100 cc | O.NN
solvent | ethanol | 40 cc | C(C)O | C2H6O
product | 6-tert.Butyl-3-hydrazino-5,6,7,8-tetrahydrocinnoline | C(C)(C)(C)C1CC=2C=C(N=NC2CC1)NN | C12H20N4
